US07868135B2
(2-Dodecanoylamino-Thiazol-4-yl)-Acetic Acid
In a first step, (2-amino-thiazol-4-yl)-acetic acid ethyl ester is coupled to dodecanoyl chloride as described in the method of Example 334 to provide (2-Dodecanoylamino-thiazol-4-yl)-acetic acid ethyl ester as a crude solid. In a second step, the crude solid of (2-Dodecanoylamino-thiazol-4-yl)-acetic acid ethyl ester was deprotected using LiOH (2-fold excess) in THF/H2O to provide the title compound as a crude solid, which was used directly without further purification or characterization.

reactant | (2-Dodecanoylamino-thiazol-4-yl)-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC(CCCCCCCCCCC)=O)=O | C19H32N2O3S
reactant | LiOH | [Li+].[OH-]
solvent | THF H2O | C1CCOC1.O
product | (2-Dodecanoylamino-Thiazol-4-yl)-Acetic Acid | C(CCCCCCCCCCC)(=O)NC=1SC=C(N1)CC(=O)O | C17H28N2O3S
